US08609849B1
3-Amino-1-(2,4-difluoro-phenyl)-propan-1-ol hydrochloride salt.
3-(2,4-Difluoro-phenyl)-3-hydroxy-propionitrile (960 mg, 5.24 mmol) was slowly treated with a solution of borane-tetrahydrofuran complex (11.53 mL, 11.53 mmol, 1M in tetrahydrofuran) at 0° C. After bubbling ceased, the reaction mixture was heated to 70° C. for 3 hours. The reaction mixture was then concentrated. The white solid obtained was treated with methanol (11.5 mL), followed by HCl (2M in ether, 11.5 mL). The resulting mixture was heated to reflux for 2 hours, allowed to cool to ambient temperature and then concentrated at reduced pressure. The white solid obtained was triturated with diethyl ether and dried in vacuum oven to provide a white solid (1.10 g, 94%). LC-MS: t=2.20 min, (M+H)+ at 188.08.

reactant | 3-(2,4-Difluoro-phenyl)-3-hydroxy-propionitrile | 5.24 mmol, 960 mg | FC1=C(C=CC(=C1)F)C(CC#N)O | C9H7F2NO
reactant | borane tetrahydrofuran | 11.53 mmol, 1M, 11.53 mL | B.O1CCCC1
reactant | HCl | 2M, 11.5 mL | Cl | ClH
solvent | methanol | 11.5 mL | CO | CH4O
product | 3-Amino-1-(2,4-difluoro-phenyl)-propan-1-ol hydrochloride salt | 1.10 g, 94% | Cl.NCCC(O)C1=C(C=C(C=C1)F)F | InChI=1S/C9H11F2NO.ClH/c10-6-1-2-7(8(11)5-6)9(13)3-4-12;/h1-2,5,9,13H,3-4,12H2;1H
